US06809097B1
A mixture of 4-chloro-6,7-dimethoxyquinoline hydrochloride (540 mg, 2.08 mmol), (prepared as described for the starting material in Example 2), in 3-aminophenol (1 ml) and isopropanol (15 ml) was heated at reflux for 2 hours. The mixture was allowed to cool and the solid product was collected by filtration, washed with acetone and dried to give 6,7-dimethoxy-4-(3-hydroxyanilino)quinoline hydrochloride (336 mg, 47%).

reactant | 4-chloro-6,7-dimethoxyquinoline hydrochloride | 2.08 mmol, 540 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OC
reactant | isopropanol | 15 ml | C(C)(C)O | C3H8O
solvent | 3-aminophenol | 1 ml | NC=1C=C(C=CC1)O | C6H7NO
product | 6,7-dimethoxy-4-(3-hydroxyanilino)quinoline hydrochloride | 336 mg, 47% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC(=CC=C1)O | InChI=1S/C17H16N2O3.ClH/c1-21-16-9-13-14(19-11-4-3-5-12(20)8-11)6-7-18-15(13)10-17(16)22-2;/h3-10,20H,1-2H3,(H,18,19);1H
